* c:\users\vinit\desktop\summation-of-counter\vinit_dff\vinit_dff.cir

v1  d gnd pulse(0 5 1n 1n 1n 1.55264 2.244985)
v2  clk gnd pulse(0 5 1n 1n 1n 1 2)
* u2  d clk net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ vinit_dff
* u3  net-_u1-pad3_ q dac_bridge_1
* u4  q plot_v1
* u5  d plot_v1
* u6  clk plot_v1
a1 [d clk ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
a3 [net-_u1-pad3_ ] [q ] u3
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             vinit_dff, NgSpice Name: vinit_dff
.model u1 vinit_dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.0001e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q)
plot v(d)
plot v(clk)
.endc
.end
